US07326715B2
B: 2-Methanesulfonyl-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine
A solution of HCl (720 μl, 2N in Et2O, 1.43 mmol) was added to a solution of 2-methylthio-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine (190 mg, 0.48 mmol) in Et2O (1 ml). The solvent was evaporated and the precipitate was dissolved in a mixture of water (1 ml) and acetonitrile (6 ml). Oxone (586 mg, 0.96 mmol) was added and the reaction mixture was stirred at room temperature for 60 h. An aqueous Na2CO3 saturated solution (6 ml) was added (pH=9) followed by AcOEt. The organic layer was washed with Na2SO3, with brine, dried over MgSO4 and concentrated under reduced pressure to give the above titled compound: 184 mg (yield: 90%) which was used in the next step without any further purification.

reactant | HCl | 1.43 mmol, 2N, 720 μl | Cl | ClH
reactant | 2-methylthio-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine | 0.48 mmol, 190 mg | CSC1=NC(=CC(=N1)OCCN1CCCCC1)C1=CC(=CC=C1)C(F)(F)F | C19H22F3N3OS
reactant | Oxone | 0.96 mmol, 586 mg | OOS(=O)[O-].[K+]
reactant | Na2CO3 | 6 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Et2O | 1 ml | CCOCC | C4H10O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-Methanesulfonyl-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine | yield: 90% | CS(=O)(=O)C1=NC(=CC(=N1)OCCN1CCCCC1)C1=CC(=CC=C1)C(F)(F)F | C19H22F3N3O3S
